US04133809
4-(2-Dimethylaminoethyl)-1-methyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a] [1,5]benzodiazepin-5-one
37.0 g of 1-methyl-8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,5]benzodiazepin-5-one and 7.8 g of a 50 percent sodium hydride mineral oil dispersion in 400 ml of dry 1,2-dimethoxyethane are stirred for 2 hours. A solution of 13.7 g of 2-dimethylaminoethyl bromide in 40 ml of dry 1,2-dimethoxyethane is added and the whole is stirred for 18 hours. The solvent is evaporated and the residue is partitioned between methylene chloride and water. The organic phase is washed with water, dried and evaporated to give the title compound.

reactant | 1-methyl-8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,5]benzodiazepin-5-one | 37.0 g | CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)Cl | C17H13ClN4O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-dimethylaminoethyl bromide | 13.7 g | CN(CCBr)C | C4H10BrN
solvent | 1,2-dimethoxyethane | 400 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 40 ml | COCCOC | C4H10O2
product | 4-(2-Dimethylaminoethyl)-1-methyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a] [1,5]benzodiazepin-5-one | CN(CCC1C=2N(C3=C(N(C1=O)C1=CC=CC=C1)C=C(C=C3)Cl)C(=NN2)C)C | C21H22ClN5O
